US04246406
Preparation of 3,5-Diamino-6-chloro-N-[(4-thiomorpholinyl)aminomethylene]-2-pyrazinecarboxamide
Thiomorpholine hydrochloride (2.10 g., 0.015 mole), triethylamine (2.1 ml., 0.015 mole), and 1-(3,5-diamino-6-chloropyrazinoyl)-2-methyl-2-thiopseudourea hydroiodide (1.94 g., 0.005 mole) are heated in tetrahydrofuran (50 ml.) at reflux for 4 hrs. The reaction mixture is added to ice-water to precipitate 590 mg. of 3,5-diamino-6-chloro-N-[(4-thiomorpholinyl)aminomethylene]-2-pyrazinecarboxamide which melts at 234°-6° C. after reprecipitation from dilute hydrochloric acid with sodium hydroxide.

reactant | Thiomorpholine hydrochloride | 0.015 mole, 2.10 g | Cl.N1CCSCC1
reactant | triethylamine | 0.015 mole, 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3,5-diamino-6-chloropyrazinoyl)-2-methyl-2-thiopseudourea hydroiodide | 0.005 mole, 1.94 g | I.NC=1C(=NC(=C(N1)N)Cl)C(=O)NC(SC)=N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3,5-Diamino-6-chloro-N-[(4-thiomorpholinyl)aminomethylene]-2-pyrazinecarboxamide | NC=1C(=NC(=C(N1)N)Cl)C(=O)N=CNN1CCSCC1 | C10H14ClN7OS
